US07491716B2
Add chloroacetyl chloride (1.7 ml, 21.71 mmol) and diisopropylethylamine (10.38 ml, 62.04 mmol) to a solution of (1H-Indol-7-ylmethyl)propylamine (3.89 g, 20.68 mmol) in methylene chloride. Stir for 2 hours, quench with saturated aqueous ammonium chloride and extract into ethyl acetate. Wash the organic layers with saturated aqueous sodium chloride, dry over magnesium sulfate, filter, and concentrate under reduced pressure to yield N-(1H-indol-7-yl)methyl N-propyl 2-chloroacetamide (5.47 gm, 20.68 mMol).

reactant | chloroacetyl chloride | 21.71 mmol, 1.7 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | diisopropylethylamine | 62.04 mmol, 10.38 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1H-Indol-7-ylmethyl)propylamine | 20.68 mmol, 3.89 g | N1C=CC2=CC=CC(=C12)CNCCC | C12H16N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(1H-indol-7-yl)methyl N-propyl 2-chloroacetamide | 20.68 mMol, 5.47 gm | N1C=CC2=CC=CC(=C12)CN(C(CCl)=O)CCC | C14H17ClN2O
